US05250527
Substituting 33% w/w dimethylamine in ethanol (15 ml) for morpholine and 4-chloro-5-bromo-2-hydroxymethylpyridine (5 g) for 3,4-dichloro-2-hydroxymethylpyridine and using corresponding molar proportions of the other reagents in the method of Example 3D gave after chromatography (silica, chloroform:methanol, 98:2) 4-dimethylamino-5-bromo-2-hydroxymethylpyridine, 3.62 g, as an oil.

reactant | dimethylamine | CNC | C2H7N
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 4-chloro-5-bromo-2-hydroxymethylpyridine | 5 g | ClC1=CC(=NC=C1Br)CO | C6H5BrClNO
reactant | 3,4-dichloro-2-hydroxymethylpyridine | ClC=1C(=NC=CC1Cl)CO | C6H5Cl2NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-dimethylamino-5-bromo-2-hydroxymethylpyridine | CN(C1=CC(=NC=C1Br)CO)C | C8H11BrN2O
